US07968573B2
A mixture of 4.62 g of chloral hydrate, 3.5 g of 3-chloro-2-methylaniline, 30 g of anhydrous sodium sulfate, 120 ml of water and 2 ml of 2N hydrochloric acid was stirred at room temperature for 2 hours. Then, to the resulting mixture, 1.8 g of hydroxylamine hydrochloride was added, and the mixture was heated to reflux for 30 minutes. The reaction mixture was ice-cooled, and a deposited precipitate was collected by filtration to obtain 2.5 g of N-(3-chloro-2-methylphenyl)-2-(hydroxyimino)acetamide of the formula:

reactant | chloral hydrate | 4.62 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | 3-chloro-2-methylaniline | 3.5 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | sodium sulfate | 30 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.8 g | Cl.NO
solvent | water | 120 ml | O | H2O
product | N-(3-chloro-2-methylphenyl)-2-(hydroxyimino)acetamide | 2.5 g | ClC=1C(=C(C=CC1)NC(C=NO)=O)C | C9H9ClN2O2
